US05258357
4-Chlorothiophene-3-carboxanilide
At room temperature, a solution of 4-chlorothiophene-3-carboxylic chloride (13.5 g, 0.075 mol) in 30 ml of dioxane is dripped into a solution of aniline (7.7 g, 0.083 mol) in pyridine (160 ml). The mixture is stirred for 12 hours at room temperature and concentrated to dryness, and the residue is taken up in dichloromethane. The organic phase is extracted with aqueous citric acid solution, sodium bicarbonate solution and water, dried and concentrated to dryness. Yield: 16.7 g, 94%; m.p. 119°-121° C.

reactant | 4-chlorothiophene-3-carboxylic chloride | 0.075 mol, 13.5 g | ClC=1C(=CSC1)C(=O)Cl | C5H2Cl2OS
reactant | aniline | 0.083 mol, 7.7 g | NC1=CC=CC=C1 | C6H7N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 160 ml | N1=CC=CC=C1 | C5H5N
product | 4-Chlorothiophene-3-carboxanilide | ClC=1C(=CSC1)C(=O)NC1=CC=CC=C1 | C11H8ClNOS
